*COPYRIGHT OF COMLINEAR (A NATIONAL SEMICONDUCTOR COMPANY)
*
* CLC431 Macromodel Net List--- Subcircuit Format (MMD.06)
*
*   This is a Dual Wideband Monolithic Current Feedback
*   Op Amp with Disable and High Slew Rate
*
* Version 1, Rev. A, Date 06-30-94, by KEB
*
* Connections: Non-Inverting Input
*              | Inverting
*              | | +Vcc  
*              | | |  -Vee
*              | | |  |  Output
*              | | |  |  | DIS
*              | | |  |  | | DIS_bar
*              | | |  |  | | |  VR_TTL
*              | | |  |  | | |  |
.SUBCKT CLC431 2 1 11 4 14 3 12 13
*
* DISABLE BLOCK
*
D1 11 20 DX
R1 20 3 100K
C1 3 0 1.00P
*
R4 11 12 100K
C2 12 0 1.00P
D4 12 26 DX
D5 26 13 DX
R7 13 0 1.00G
C3 13 0 1.00P
*
R2 3 21 5.00K
Q1 11 21 22 QDG
R3 22 23 150
D2 24 21 DW
D3 21 24 DW
R5 24 12 5.00K
Q2 11 24 25 QDG
R6 25 23 150
C4 23 0 5.50P
G1 23 4 POLY(1) 11 4 118U 195N
*
* BIAS BLOCK
*
E1 27 0 POLY(1) 25 23 685M 1.00K
R8 27 0 1.00K
D6 27 28 DY
I1 28 0 DC 100U
C5 28 0 2.80P
G2 11 30 POLY(3) 28 0 11 34 11 30 0 2.06U 2.70M 70.2N
C6 30 0 822F
C7 30 34 368F
G4 36 4 POLY(3) 28 0 33 4 36 4 0 2.06U 2.70M 18.4N
C11 36 0 608F
C10 33 36 493F
*
* INPUT STAGE
*
C8 2 14 320F
C9 2 0 1.00P
E2 2 32 POLY(2) 70 0 71 0 0 1.00 1.00
G3 32 0 POLY(2) 72 0 73 0 0 1.00M 1.00M
*
D7 30 31 DX 3.00
Q3 33 32 31 QINP
R9 33 4 325
*
R10 11 34 350
Q4 34 32 35 QINN
D8 35 36 DX 3.00
*
G5 41 0 POLY(2) 74 0 75 0 0 1.00M 1.00M
Q5 41 30 42 QINN
R12 30 42 100K
D9 42 1 DX 3.00
C12 1 14 260F
C13 1 0 3.00P
D10 1 43 DX 3.00
R13 43 36 100K
Q6 44 36 43 QINP
*
* GAIN STAGE
*
R11 11 40 600
V1 40 41 1.30
V3 11 50 1.50
D11 51 50 DOR
G6 11 51 POLY(2) 11 40 11 51 0 5.00M 318N
C14 41 51 387F
G8 11 60 POLY(1) 11 40 0 8.33M
C17 41 60 387F
C18 60 0 780F
C21 41 14 850F
*
R14 45 4 600
V2 44 45 1.30
V4 52 4 1.50
D12 52 51 DOR
G7 51 4 POLY(2) 45 4 51 4 0 5.00M 125N
C16 44 51 305F
G9 61 4 POLY(1) 45 4 0 8.33M
C19 44 61 305F
C20 61 0 353F
C23 44 14 850F
*
* OUTPUT STAGE
*
C15 51 0 1.11P
Q7 4 51 60 QOUTP1
Q8 11 51 61 QOUTN1
D13 51 14 DX 4.00
D14 14 51 DX 4.00
Q9 11 60 14 QOUTN2
Q10 4 61 14 QOUTP2 2.00
C22 14 0 1.98P
*
* NOISE BLOCKS
*
I2 71 70 DC 69.1U
D15 70 0 DN1
D16 0 71 DN1
*
I3 73 72 DC 186U
D17 72 0 DN2
D18 0 73 DN2
*
I4 75 74 DC 6.15U
D19 74 0 DN3
D20 0 75 DN3
*
* MODELS
*
.MODEL DN1 D IS=0.166F KF=4.48F AF=1.00
.MODEL DN2 D IS=0.166F KF=27.4F AF=1.00
.MODEL DN3 D IS=0.166F KF=23.6F AF=1.00
.MODEL DOR D TT=10.0U
.MODEL DW D IS=0.269F N=2.00 RS=2.01K
.MODEL DX D IS=0.269F RS=5.28 CJO=242F M=287M VJ=653M TT=515P
.MODEL DY D IS=0.269F RS=5.28
*
.MODEL QDG NPN
+ IS =2.330E-16 BF =2.053E+02 NF =1.000E+00 VAF=3.281E+02
+ IKF=6.311E-03 ISE=1.033E-16 NE =1.263E+00 BR =3.821E-01
+ NR =1.000E+00 VAR=2.335E+00 IKR=2.198E-03 ISC=0.000E+00
+ NC =2.000E+00 RB =1.625E+02 IRB=0.000E+00 RBM=1.250E+01
+ RE =3.392E+00 RC =8.000E+01 CJE=2.428E-13 VJE=6.534E-01
+ MJE=2.873E-01 TF =5.146E-10 XTF=2.472E+01 VTF=1.959E+00
+ ITF=2.429E-02 PTF=0.000E+00 CJC=2.970E-13 VJC=6.669E-01
+ MJC=4.051E-01 XCJC=5.00E-03 TR =1.550E-09 CJS=5.491E-13
+ VJS=5.253E-01 MJS=3.708E-01 FC =9.476E-01
*
.MODEL QINN NPN
+ IS =8.063E-16 BF =2.053E+02  NF =1.000E+00 VAF=1.640E+02
+ IKF=1.893E-02 ISE=3.099E-16  NE =1.263E+00 BR =4.649E-01
+ NR =1.000E+00 VAR=2.335E+00  IKR=6.594E-03 ISC=0.000E+00
+ NC =2.000E+00 RB =7.917E+01  IRB=0.000E+00 RBM=2.917E+01
+ RE =1.131E+00 RC =3.294E+01  CJE=7.284E-13 VJE=6.534E-01
+ MJE=2.873E-01 TF =5.140E-10  XTF=2.472E+01 VTF=1.959E+00
+ ITF=7.287E-02 PTF=0.000E+00  CJC=7.387E-13 VJC=6.669E-01
+ MJC=4.051E-01 XCJC=2.603E-01 TR =1.550E-09 CJS=2.438E-12
+ VJS=5.253E-01 MJS=0.000E+00  FC =9.476E-01
*
.MODEL QOUTN1 NPN
+ IS =3.495E-15 BF =2.053E+02  NF =1.000E+00 VAF=3.281E+02
+ IKF=9.466E-02 ISE=1.550E-15  NE =1.263E+00 BR =6.484E-01
+ NR =1.000E+00 VAR=2.335E+00  IKR=3.297E-02 ISC=0.000E+00
+ NC =2.000E+00 RB =1.083E+01  IRB=0.000E+00 RBM=8.333E-01
+ RE =2.261E-01 RC =1.249E+01  CJE=3.642E-12 VJE=6.534E-01
+ MJE=2.873E-01 TF =5.131E-10  XTF=2.472E+01 VTF=1.959E+00
+ ITF=3.644E-01 PTF=0.000E+00  CJC=2.697E-12 VJC=6.669E-01
+ MJC=4.051E-01 XCJC=3.565E-01 TR =3.410E-09 CJS=1.823E-12
+ VJS=5.253E-01 MJS=3.708E-01  FC =9.476E-01
*
.MODEL QOUTN2 NPN
+ IS =4.660E-15 BF =2.053E+02  NF =1.000E+00 VAF=3.281E+02
+ IKF=1.262E-01 ISE=2.066E-15  NE =1.263E+00 BR =6.767E-01
+ NR =1.000E+00 VAR=2.335E+00  IKR=4.396E-02 ISC=0.000E+00
+ NC =2.000E+00 RB =8.125E+00  IRB=0.000E+00 RBM=6.250E-01
+ RE =5.170E+00 RC =1.253E+01  CJE=4.856E-12 VJE=6.534E-01
+ MJE=2.873E-01 TF =5.130E-10  XTF=2.472E+01 VTF=1.959E+00
+ ITF=4.858E-01 PTF=0.000E+00  CJC=3.455E-12 VJC=6.669E-01
+ MJC=4.051E-01 XCJC=3.710E-01 TR =4.340E-09 CJS=2.759E-12
+ VJS=5.253E-01 MJS=3.708E-01  FC =9.476E-01
*
.MODEL QINP PNP
+ IS =8.063E-16 BF =2.138E+02  NF =1.000E+00 VAF=4.838E+01
+ IKF=8.733E-03 ISE=7.173E-14  NE =1.839E+00 BR =2.373E+00
+ NR =1.000E+00 VAR=2.006E+00  IKR=6.327E-02 ISC=0.000E+00
+ NC =2.000E+00 RB =7.110E+01  IRB=0.000E+00 RBM=2.909E+01
+ RE =2.742E+00 RC =8.235E+01  CJE=5.652E-13 VJE=6.800E-01
+ MJE=3.426E-01 TF =5.120E-10  XTF=2.558E+01 VTF=1.996E+00
+ ITF=4.905E-02 PTF=0.000E+00  CJC=1.194E-12 VJC=6.664E-01
+ MJC=4.898E-01 XCJC=2.218E-01 TR =4.250E-09 CJS=2.438E-12
+ VJS=5.763E-01 MJS=0.000E+00  FC =9.147E-01
*
.MODEL QOUTP1 PNP
+ IS =4.650E-15 BF =2.138E+02  NF =1.000E+00 VAF=9.675E+01
+ IKF=4.367E-02 ISE=3.586E-13  NE =1.839E+00 BR =3.319E+00
+ NR =1.000E+00 VAR=2.006E+00  IKR=3.164E-01 ISC=0.000E+00
+ NC =2.000E+00 RB =9.220E+00  IRB=0.000E+00 RBM=8.183E-01
+ RE =5.484E-01 RC =3.158E+01  CJE=2.826E-12 VJE=6.800E-01
+ MJE=3.426E-01 TF =5.107E-10  XTF=2.558E+01 VTF=1.996E+00
+ ITF=2.452E-01 PTF=0.000E+00  CJC=4.358E-12 VJC=6.664E-01
+ MJC=4.898E-01 XCJC=3.039E-01 TR =6.375E-09 CJS=3.939E-12
+ VJS=5.763E-01 MJS=3.679E-01  FC =9.147E-01
*
.MODEL QOUTP2 PNP
+ IS =6.200E-15 BF =2.138E+02  NF =1.000E+00 VAF=9.675E+01
+ IKF=5.822E-02 ISE=4.782E-13  NE =1.839E+00 BR =3.473E+00
+ NR =1.000E+00 VAR=2.006E+00  IKR=4.218E-01 ISC=0.000E+00
+ NC =2.000E+00 RB =6.915E+00  IRB=0.000E+00 RBM=6.138E-01
+ RE =1.041E+01 RC =2.792E+01  CJE=3.768E-12 VJE=6.800E-01
+ MJE=3.426E-01 TF =5.105E-10  XTF=2.558E+01 VTF=1.996E+00
+ ITF=3.270E-01 PTF=0.000E+00  CJC=5.573E-12 VJC=6.664E-01
+ MJC=4.898E-01 XCJC=3.169E-01 TR =7.438E-09 CJS=5.887E-12
+ VJS=5.763E-01 MJS=3.679E-01  FC =9.147E-01
*
.ENDS CLC431
